US06159978
5-Chloro-4-methoxy-2-nitroaniline
To a solution of N-(5-chloro-4-methoxy-2-nitrophenyl)-acetamide (2 g, 8.2 mmol) in 5N HCl (20 mL) is added 1,4-dioxane (10 mL), and the mixture is stirred at 60° C. for 1.5 hours. The reaction mixture is concentrated and partitioned between EtOAc/2 N NaOH. The aqueous layers are washed with EtOAc (3×), brine, dried (MgSO4), adsorbed onto silica gel, and chromatographed (70% EtOAc/hexanes) to provide an orange powder.

reactant | N-(5-chloro-4-methoxy-2-nitrophenyl)-acetamide | 8.2 mmol, 2 g | ClC=1C(=CC(=C(C1)NC(C)=O)[N+](=O)[O-])OC | C9H9ClN2O4
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 5N, 20 mL | Cl | ClH
product | 5-Chloro-4-methoxy-2-nitroaniline | ClC=1C(=CC(=C(N)C1)[N+](=O)[O-])OC | C7H7ClN2O3
